data/mechanism_extracts/RussChemBull/10.1007_s11172-006-0008-6.json
{"doi": "10.1007_s11172-006-0008-6", "journal": "RussChemBull", "is_review": false, "rxn_class_summary": "Electrocatalytic cyclopropanation of arylidene- or alkylidenemalononitriles with dialkyl malonates in alcoholic NaBr/NaI to give 3-substituted 2,2-dicyanocyclopropane-1,1-dicarboxylates.", "mechanism_family": ["mediator_anodic", "anion_initiated", "electrocatalysis_outer_sphere"], "electrochemical_role": "Anodic oxidation of halide (Br- or I-) to molecular halogen (Hal2) which serves as the chemical mediator; cathodic reduction of alcohol generates alkoxide base that deprotonates the malonate CH-acid. Substrate itself is not directly oxidized at the electrode.", "key_intermediates": [{"name": "molecular halogen Hal2 (Br2 or I2) generated at anode", "smiles": "BrBr", "role": "reactive"}, {"name": "alkoxide ion (MeO- or EtO-) generated at cathode", "smiles": "[O-]C", "role": "reactive"}, {"name": "dialkyl malonate carbanion (CH(COOR)2-)", "smiles": null, "role": "reactive"}, {"name": "Michael adduct anion A (anion of 2-substituted propane-1,1,3,3-tetracarbonitrile/dicarboxylate)", "smiles": null, "role": "reactive"}, {"name": "alpha-halo Michael adduct (haloalkylated malonate-dinitrile)", "smiles": null, "role": "transient"}, {"name": "bromomalonate anion (alternative route, Scheme 5)", "smiles": null, "role": "reactive"}, {"name": "intermediate anion B from malononitrile + arylidenemalonate (Scheme 7)", "smiles": null, "role": "off_pathway"}, {"name": "cyclic tetraester 6 (side product from malonate + arylidenemalonate)", "smiles": null, "role": "off_pathway"}, {"name": "dimethyl 3,3-dicyano-2-phenylpropane-1,1-dicarboxylate (4, open-chain Michael adduct detected at low charge)", "smiles": null, "role": "transient"}], "electron_flow": "At the anode, halide is oxidized to Hal2 (2 Hal- - 2e -> Hal2); at the cathode, alcohol is reduced to alkoxide and H2. Alkoxide deprotonates dialkyl malonate to its carbanion, which undergoes Michael addition to the arylidene/alkylidenemalononitrile to give anion A; A is halogenated by Hal2 and then closes the cyclopropane ring via intramolecular SN2 with displacement of Hal- on action of alkoxide.", "rate_determining_step": "Deprotonation of the CH-acid and/or Michael addition of the malonate anion to the activated olefin (NaBr preferred over NaI because bromomalonate is a stronger CH-acid and adds faster).", "probe_reagents": [{"name": "reduced charge (0.7 F mol-1) electrolysis", "smiles": null, "purpose": "intermediate_trap", "observation": "Open-chain Michael adduct 4 (dimethyl 3,3-dicyano-2-phenylpropane-1,1-dicarboxylate) detected by 1H NMR in 25% along with cyclopropane 3a (32%), supporting stepwise Michael then halogenation/ring-closure."}, {"name": "NaI vs NaBr mediator comparison", "smiles": null, "purpose": "redox_probe", "observation": "NaBr gives higher yields than NaI for malonate substrates (e.g. 75 vs 63%), opposite to tetracarboxylate ring closure; attributed to faster bromomalonate formation/deprotonation and faster Michael addition."}, {"name": "temperature variation (-20 to +20 C)", "smiles": null, "purpose": "other", "observation": "0 C optimal for malonate + alkylidenemalononitrile; raising T causes oligomerization and lower yields."}], "evidence_types_used": ["isolation_of_intermediate", "stoichiometric_intermediate", "kinetic_order"], "evidence_strength": "medium", "notes": "An alternative/parallel route (Scheme 5) is proposed in which malonate is first brominated at the anode to bromomalonate, deprotonated to bromomalonate anion, then adds to the activated olefin followed by base-induced ring closure; this rationalizes why NaBr outperforms NaI here (opposite trend to the tetracarboxylate cyclization, ref 18). A side pathway via malononitrile-anion route (Schemes 6-8) gives lower yields owing to oligomerization of malononitrile and formation of cyclic tetraester 6 from CH(COOMe)2- + arylidenemalonate."}
